US05726319
Step A: (R)-α-[(3-t-Butoxycarbonylamino-3-methyl-1-oxobutyl)amino]benzenebutanoic acid benzyl ester
D-Homophenylalanine benzyl ester (725 mg; 3.23 mmol) whose preparation was described in Example 7 Step B, triethylamine (750 ml; 5,38 mmol) and 3-t-butoxycarbonylamino-3-methylbutanoic acid (585 mg; 2.69 mmol) were dissolved in dry methylene chloride (10 ml) and BOP (1.19 g, 2.69 mmol) was added with stirring in small batches to give a slightly cloudy solution. The reaction mixture was stirred at room temperature for 24 h then quenched by adding saturated brine (10 ml). The two phase system was extracted with methylene chloride (2×25 ml) and the combined methylene chloride extracts dried over magnesium sulfate powder, filtered and evaporated on a rotary evaporator under reduced pressure to give a cloudy, colorless oil. This material was taken up in the minimum volume of methylene chloride and chromatographed on silica gel using an eluant composed of ethyl acetate and hexanes in the ratio 1:1 v/v. The product was isolated after evaporation of the volatiles as a clear oil. The yield was 710 mg (88.5%). FAB-MS: -calculated for C27H36N2 O5 468.3; found 469.6 (M+1).

reactant | D-Homophenylalanine benzyl ester | 3.23 mmol, 725 mg | C(C1=CC=CC=C1)OC([C@H](N)CCC1=CC=CC=C1)=O | C17H19NO2
reactant | triethylamine | 5,38 mmol, 750 ml | C(C)N(CC)CC | C6H15N
reactant | 3-t-butoxycarbonylamino-3-methylbutanoic acid | 2.69 mmol, 585 mg | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
reactant | BOP | 2.69 mmol, 1.19 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-α-[(3-t-Butoxycarbonylamino-3-methyl-1-oxobutyl)amino]benzenebutanoic acid benzyl ester | C(C1=CC=CC=C1)OC([C@@H](CCC1=CC=CC=C1)NC(CC(C)(C)NC(=O)OC(C)(C)C)=O)=O | C27H36N2O5
